US07105539B2
2-tert-Butoxycarbamoyl-succinic acid 4-tert-butyl ester
To 2-tert-butoxycarbamoyl-succinic acid 4-tert-butyl ester 1-ethyl ester (5.92 g, 18.6 mmol) in ethanol (224 mL) was added 20.91 mL of a 10% aqueous solution of potassium hydroxide. The resulting mixture was then stirred at room temperature for 3 hours and then worked up. The crude product was purified by flash chromatography (SiO2, 90% dichloromethane-10% methanol) to afford 3.06 g (57.0% yield) of the desired mono acid: 1H NMR (CDCl3, 400 MHz) 3.65 (t, 1H), 2.78 (dd, 3H), 1.45 (s, 9H), 1.25 s, 9H); 13C NMR (CDCl3, 400 MHz) 171.2, 169.7, 84.0, 82.0, 46.8, 34.5, 28.5, 26.5.

reactant | 2-tert-butoxycarbamoyl-succinic acid 4-tert-butyl ester 1-ethyl ester | 18.6 mmol, 5.92 g | C(C)OC(C(CC(=O)OC(C)(C)C)C(NOC(C)(C)C)=O)=O | C15H27NO6
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | 224 mL | C(C)O | C2H6O
product | 2-tert-Butoxycarbamoyl-succinic acid 4-tert-butyl ester | 57.0% yield | C(C)(C)(C)OC(CC(C(=O)O)C(NOC(C)(C)C)=O)=O | C13H23NO6
